### PR TITLE
feat: add `toInt_smod` and auxilliary theorems

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds `toInt_smod` and auxilliary lemmas necessary for its proof (`msb_intMin_umod_neg_of_msb_true`, `msb_neg_umod_neg_of_msb_true_of_msb_true`, `toInt_dvd_toInt_iff`, `toInt_dvd_toInt_iff_of_msb_true_msb_false`, `toInt_dvd_toInt_iff_of_msb_false_msb_true`, `neg_toInt_neg_umod_eq_of_msb_true_msb_true`, `toNat_pos_of_ne_zero`, `toInt_umod_neg_add`, `toInt_sub_neg_umod` and `BitVec.[lt_of_msb_false_of_msb_true, msb_umod_of_msb_false_of_ne_zero`, `neg_toInt_neg]`)

co-authored with @tobiasgrosser

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase c96dfa54a488c01e63be2badb88a878ff81beee8 --onto 29cc75531a5a0e8626fa5e96371e7ceb98877782`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-14 19:19:38)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase c96dfa54a488c01e63be2badb88a878ff81beee8 --onto 6ca31baa55e4b29c9667085736863f9ca840b16c`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-15 08:48:38)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 528fe0b0ed673accd37d986d80a7c49f876a3087 --onto 6ca31baa55e4b29c9667085736863f9ca840b16c`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-15 17:09:59)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 528fe0b0ed673accd37d986d80a7c49f876a3087 --onto ca9b3eb75f3f794d3d526a7c37da389175b317a2`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-16 13:28:12)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 528fe0b0ed673accd37d986d80a7c49f876a3087 --onto c8290bd94221f41ae49899f0f7de71b52724ad7e`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-17 16:45:30)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ebf455a13780ea508abee8016b8bb6c5549bf9d7 --onto 3bf95e9b585ceca4e88baeda8b92a44f485cffdf`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-21 10:41:57)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ebf455a13780ea508abee8016b8bb6c5549bf9d7 --onto 2a1354b3cc1eb05e1b67c656d2172ada8f54a937`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-25 14:21:56)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 9982bab93e0c749d3c4e20d0f8ce21e939a1e5e9 --onto 2a1354b3cc1eb05e1b67c656d2172ada8f54a937`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-25 17:13:19)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase a6dd6a4656111909f4303957f40e9b38953b74c0 --onto 1e752b0a01bafdbcea6496ac4add09226b92aa99`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-27 06:05:16)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase a6dd6a4656111909f4303957f40e9b38953b74c0 --onto 3af9ab64ed79a667fb8989f7a0c258b018aba371`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-28 09:23:35)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase a6dd6a4656111909f4303957f40e9b38953b74c0 --onto 72141b05fd9a3328c1e5d99211dc4da4495cbd42`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-30 09:21:15)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase a6dd6a4656111909f4303957f40e9b38953b74c0 --onto c6cad5fcff86c6c9ee738bf4faaf643924c587ea`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-02 09:43:13)

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1750,6 +1750,176 @@ theorem toInt_srem (x y : BitVec w) : (x.srem y).toInt = x.toInt.tmod y.toInt :=
...
+theorem msg_neg_neg_mod_neg {x y : BitVec w} (hx : x.msb = true) (hy : y.msb = true) :
+    (-(-x % -y)).msb = (-x % -y != 0#w && -x % -y != intMin w ^^ decide (x = intMin w) &&
+    decide (-x < -y)) := by
+  by_cases hw : w = 0; subst hw; decide +revert
+  have wpos : 0 < w := by omega
+  simp only [msb_neg]
+  simp only [msb_neg_umod_neg_of_msb_true_of_msb_true hx hy]
+
+theorem toInt_dvd_of_umod_zero {x y : BitVec w} :
+    (if x.msb then -x else x) % (if y.msb then -y else y) = 0#w ↔ y.toInt ∣ x.toInt := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1785]: I wonder if we would want to flop the direction and call it `toInt_dvd_toInt_iff`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -1750,6 +1750,152 @@ theorem toInt_srem (x y : BitVec w) : (x.srem y).toInt = x.toInt.tmod y.toInt :=
...
+  <;> simp only [umod_eq]
+
+
+  · have hylt := toNat_lt_of_msb_false (x := y) (by omega)
+    have hmodlt := Nat.mod_lt (x := x.toNat) (y := y.toNat)
+      (by simp only [← toInt_inj, toInt_eq_toNat_of_msb hymsb, toInt_zero,
+        Int.natCast_eq_zero] at hyzero; omega)
+    rw [toInt_umod,
+      Int.fmod_eq_emod_of_nonneg (a := x.toInt) (b := y.toInt)
+        (by exact toInt_nonneg_of_msb_false (x := y) hymsb),
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1818]:
```suggestion
      Int.fmod_eq_emod_of_nonneg (a := x.toInt) (b := y.toInt)
        (toInt_nonneg_of_msb_false hymsb),
```

- you can always fold away a sequence of `by exact`.
- if the arguments are clear from the assumption, you do not need to pass them explicitly

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -1750,6 +1750,153 @@ theorem toInt_srem (x y : BitVec w) : (x.srem y).toInt = x.toInt.tmod y.toInt :=
...
+
+  · have hylt := toNat_lt_of_msb_false (x := y) (by omega)
+    have hmodlt := Nat.mod_lt x.toNat (by omega)
+    rw [toInt_umod,
+      Int.fmod_eq_emod_of_nonneg (a := x.toInt) (b := y.toInt) (toInt_nonneg_of_msb_false hymsb),
+      toInt_eq_toNat_of_msb hxmsb, toInt_eq_toNat_of_msb hymsb,
+      Int.bmod_eq_of_le_mul_two (by omega) (by simp at hylt; omega)]
+
+  · have hxnonneg := toInt_nonneg_of_msb_false (x := x) hxmsb
+    have hynonpos := toInt_neg_of_msb_true (x := y) hymsb
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1824]:
```suggestion
  · have hxnonneg := toInt_nonneg_of_msb_false hxmsb
    have hynonpos := toInt_neg_of_msb_true hymsb
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 1 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: yes I like it!

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: ah I did not know, thanks!

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -1750,6 +1750,108 @@ theorem toInt_srem (x y : BitVec w) : (x.srem y).toInt = x.toInt.tmod y.toInt :=
...
+  rw [neg_toInt_neg]
+  by_cases h : -x % -y = 0#w
+  · simp [h]
+  · rw [msb_neg_umod_neg_of_msb_true_of_msb_true hx hy]
+
+theorem toInt_smod {x y : BitVec w} :
+    (x.smod y).toInt = x.toInt.fmod y.toInt := by
+  rcases w with _|w ; simp [of_length_zero]
+  by_cases hyzero : y = 0#(w + 1) ; simp [hyzero]
+  have hypos : 0 < y.toNat := by simp [toNat_eq] at hyzero; omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1810]:
```suggestion
  by_cases hyzero : y = 0#(w + 1); simp [hyzero]
  have hypos : 0 < y.toNat := by simp [toNat_eq] at hyzero; omega
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -1750,6 +1750,128 @@ theorem toInt_srem (x y : BitVec w) : (x.srem y).toInt = x.toInt.tmod y.toInt :=
...
+@[simp]
+theorem msb_intMin_umod_neg_of_msb_true {y : BitVec w} (hy : y.msb = true) :
+    (intMin w % -y).msb = false := by
+  by_cases hyintmin : y = intMin w
+  · simp [hyintmin]
+  · rw [msb_umod_of_msb_false_of_ne_zero (by simp [hyintmin, hy])]
+    simp [hy]
+
+theorem msb_neg_umod_neg_of_msb_true_of_msb_true {x y : BitVec w} (hx : x.msb = true) (hy : y.msb = true) :
+      (-x % -y).msb = false := by
```
Comment (salinhkuhn) [inline src/Init/Data/BitVec/Bitblast.lean:1762]:
```suggestion
     (-x % -y).msb = false := by
```

Comment (salinhkuhn) [reply src/Init/Data/BitVec/Bitblast.lean:1762]: This was indented more than 2 levels.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -1750,6 +1750,128 @@ theorem toInt_srem (x y : BitVec w) : (x.srem y).toInt = x.toInt.tmod y.toInt :=
...
+  have hmodlt := Nat.mod_lt (x := (-x).toNat) (y := y.toNat) hypos
+  rw [Int.bmod_eq_of_le (by omega) (by omega)]
+  simp only [toInt_eq_toNat_of_msb hymsb, BitVec.toInt_eq_neg_toNat_neg_of_msb_true hxmsb,
+    Int.dvd_neg] at hdvd
+  simp only [hdvd]
+  simp
+
+theorem toInt_smod {x y : BitVec w} :
+    (x.smod y).toInt = x.toInt.fmod y.toInt := by
+  rcases w with _|w ; simp [of_length_zero]
```
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:1848]: Addressed.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -1750,6 +1750,128 @@ theorem toInt_srem (x y : BitVec w) : (x.srem y).toInt = x.toInt.tmod y.toInt :=
...
+  by_cases h : -x % -y = 0#w
+  · simp [h]
+  · rw [msb_neg_umod_neg_of_msb_true_of_msb_true hx hy]
+
+theorem toNat_pos_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
+    0 < x.toNat := by
+  by_cases hw : w = 0; subst hw; decide +revert
+  have wpos : 0 < w := by omega
+  simp [toNat_eq] at hx
+  omega
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1811]: maybe we should use `rcases` here? this would allow us to avoid having `wpos` explicitly
I'll come back to this in a couple hours to fix it, but I found sth similar in another proof and wanted to leave the thought here

Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: golfed

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -5348,6 +5365,27 @@ theorem neg_ofNat_eq_ofInt_neg {w : Nat} {x : Nat} :
...
+theorem toNat_neg_lt_of_msb (x : BitVec w) (hmsb : x.msb = true) :
+    (-x).toNat ≤ 2^(w-1) := by
+  rcases w with _|w
+  · simp [BitVec.eq_nil x]
+  · by_cases hx : x = 0#(w + 1)
+    · simp [hx]
+    · have := BitVec.le_toNat_of_msb_true hmsb
+      have := toNat_pos_of_ne_zero hx
+      rw [toNat_neg, Nat.mod_eq_of_lt (by omega), ← Nat.two_pow_pred_add_two_pow_pred (by omega),
+        ←Nat.two_mul]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
        ← Nat.two_mul]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -1750,6 +1750,116 @@ theorem toInt_srem (x y : BitVec w) : (x.srem y).toInt = x.toInt.tmod y.toInt :=
...
+    · simp only [toNat_eq, toNat_ofNat, zero_mod] at hyzero
+      have hypos : 0 < y.toNat := by omega
+      simp only [reduceIte, toInt_sub, toInt_eq_toNat_of_msb hymsb, toInt_umod,
+        Int.sub_bmod_bmod, toInt_eq_neg_toNat_neg_of_msb_true hxmsb, Int.neg_emod]
+      have hmodlt := Nat.mod_lt (x := (-x).toNat) (y := y.toNat) hypos
+      rw [Int.bmod_eq_of_le (by omega) (by omega)]
+      simp only [toInt_eq_toNat_of_msb hymsb, BitVec.toInt_eq_neg_toNat_neg_of_msb_true hxmsb,
+        Int.dvd_neg] at hdvd
+      simp only [hdvd]
+      simp
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      simp [hdvd]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -1750,6 +1750,116 @@ theorem toInt_srem (x y : BitVec w) : (x.srem y).toInt = x.toInt.tmod y.toInt :=
...
+        have : x.toNat % y.toNat < y.toNat := Nat.mod_lt x.toNat (by omega)
+        rw [toInt_umod, Int.fmod_eq_emod_of_nonneg x.toInt (toInt_nonneg_of_msb_false hymsb),
+          toInt_eq_toNat_of_msb hxmsb, toInt_eq_toNat_of_msb hymsb,
+          Int.bmod_eq_of_le_mul_two (by omega) (by omega)]
+      · have := toInt_dvd_toInt_iff_of_msb_false_msb_true hxmsb hymsb
+        by_cases hx_dvd_y : y.toInt ∣ x.toInt
+        · simp [show x % -y = 0#(w + 1) by simp_all, hx_dvd_y, Int.fmod_eq_zero_of_dvd]
+        · have hynonpos := toInt_neg_of_msb_true hymsb
+          simp only [show ¬x % -y = 0#(w + 1) by simp_all, show ¬0 ≤ y.toInt by omega, Int.fmod_eq_emod]
+          simp [hx_dvd_y, hymsb, hxmsb, toInt_umod_neg_add hymsb hxmsb hx_dvd_y]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: Can this be one?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 8 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Bitblast.lean (hunk 9 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: addressed, althouth I had to `simp only` to make sure that `toNat_neg` is not applied, as it prevents the goal from closing

File: src/Init/Data/BitVec/Bitblast.lean (hunk 10 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: addressed
